US07906517B2
Methyl (S)-2-[3-(2-{[(3,5-bis-trifluoromethyl-benzyl)-(5-morpholin-4-yl-pyrimidin-2-yl)-amino]-methyl}-4-trifluoromethyl-phenyl)-3-ethyl-ureido]-3-hydroxy-propionate (280 mg) and pyridine (72 μl) is dissolved in methylene chloride (5 ml), and the mixture is cooled to −20° C., and thereto is added trifluoromethanesulfonic anhydride (150 μl) and the mixture is stirred at −20° C. for 1 hour and 30 minutes. To the reaction solution are added a saturated aqueous sodium bicarbonate solution and ethyl acetate, and the mixture is separated, and the organic layer is washed with a saturated brine, dried over magnesium sulfate, and concentrated under reduced pressure. The resulting residue is purified by NH-silica gel column chromatography (hexane:ethyl acetate=4:1→1:1) to give methyl (S)-2-[(2-{[(3,5-bis-trifluoromethyl-benzyl)-(5-morpholin-4-yl-pyrimidin-2-yl)-amino]-methyl}-4-trifluoromethyl-phenyl)-ethyl-amino]-4,5-dihydro-oxazole-4-carboxylate (197 mg). MS (m/z): 735 [M+H]+

reactant | Methyl (S)-2-[3-(2-{[(3,5-bis-trifluoromethyl-benzyl)-(5-morpholin-4-yl-pyrimidin-2-yl)-amino]-methyl}-4-trifluoromethyl-phenyl)-3-ethyl-ureido]-3-hydroxy-propionate | 280 mg | FC(C=1C=C(CN(C2=NC=C(C=N2)N2CCOCC2)CC2=C(C=CC(=C2)C(F)(F)F)N(C(N[C@H](C(=O)OC)CO)=O)CC)C=C(C1)C(F)(F)F)(F)F | C32H33F9N6O5
reactant | pyridine | 72 μl | N1=CC=CC=C1 | C5H5N
reactant | trifluoromethanesulfonic anhydride | 150 μl | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | methylene chloride | 5 ml | C(Cl)Cl | CH2Cl2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | methyl (S)-2-[(2-{[(3,5-bis-trifluoromethyl-benzyl)-(5-morpholin-4-yl-pyrimidin-2-yl)-amino]-methyl}-4-trifluoromethyl-phenyl)-ethyl-amino]-4,5-dihydro-oxazole-4-carboxylate | 197 mg | FC(C=1C=C(CN(C2=NC=C(C=N2)N2CCOCC2)CC2=C(C=CC(=C2)C(F)(F)F)N(C=2OC[C@H](N2)C(=O)OC)CC)C=C(C1)C(F)(F)F)(F)F | C32H31F9N6O4
